US08217065B2
D. 3-(3,5-Dichloro-4-{6-[5-(4-chloro-phenyl)-[1,3,4]oxadiazol-2-yl]-1H-benzoimidazol-2-yl}-phenyl)-propionic acid
To a 100 ml rbf was added 0.090 g (0.157 mmol) of 3-(3,5-Dichloro-4-{6-[5-(4-chloro-phenyl)-[1,3,4]oxadiazol-2-yl]-1H-benzoimidazol-2-yl}-phenyl)-propionic acid tert-butyl ester, a few drops of anisole, and 3 mL 4M HCl in 1,4-dioxane. The purple solution was allowed to stir at r.t. for 72 h. The reaction mixture was concentrated and the residue purified by basic HPLC (ACN/0.005 mM H2O—NH4OH, 2.5:7.5 to 8:2) to give the title compound. 1H NMR (400 MHz, DMSO-d6) δ ppm 2.78 (t, J=7.45 Hz, 2 H) 3.07 (t, J=7.33 Hz, 2 H) 7.75 (s, 2 H) 7.84-7.89 (m, 2 H) 7.99 (d, J=7.45 Hz, 1 H) 8.20 (dd, J=8.46, 1.39 Hz, 1 H) 8.32-8.37 (m, 2 H) 8.56 (br. s., 1 H). MS (m/z) 515.0 M (+1) tR=1.19, Meth 10

reactant | 3-(3,5-Dichloro-4-{6-[5-(4-chloro-phenyl)-[1,3,4]oxadiazol-2-yl]-1H-benzoimidazol-2-yl}-phenyl)-propionic acid tert-butyl ester | 0.157 mmol, 0.090 g | C(C)(C)(C)OC(CCC1=CC(=C(C(=C1)Cl)C1=NC2=C(N1)C=C(C=C2)C=2OC(=NN2)C2=CC=C(C=C2)Cl)Cl)=O | C28H23Cl3N4O3
reactant | HCl | 4M, 3 mL | Cl | ClH
catalyst | anisole | a few drops | C1(=CC=CC=C1)OC | C7H8O
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
product | 3-(3,5-Dichloro-4-{6-[5-(4-chloro-phenyl)-[1,3,4]oxadiazol-2-yl]-1H-benzoimidazol-2-yl}-phenyl)-propionic acid | ClC=1C=C(C=C(C1C1=NC2=C(N1)C=C(C=C2)C=2OC(=NN2)C2=CC=C(C=C2)Cl)Cl)CCC(=O)O | C24H15Cl3N4O3
